US07605269B2
To a solution of triphenylphosphine (161 mg, 0.615 mmol) in dry THF (2.5 mL) is added DEAD (0.097 mL, 0.615 mmol). The solution is stirred at rt for 1 h before (2,2-dimethyl-5-nitro-[1,3]dioxan-5-yl)-methanol (118 mg, 0.615 mmol) and 2,6-dimethyl-4-[5-((1aS,5aR)-1,1,2-trimethyl-1,1a,5,5a-tetrahydro-3-thia-cyclopropa[a]pentalen-4-yl)-[1,2,4]oxadiazol-3-yl]-phenol (150 mg, 0.410 mmol) is added. Stirring is continued for 7 days. The formed precipitate is collected, washed with isopropanol and dried under high vacuum to give 3-[4-(2,2-dimethyl-5-nitro-[1,3]dioxan-5-ylmethoxy)-3,5-dimethyl-phenyl]-5-((1aS,5aR)-1,1,2-trimethyl-1,1a,5,5a-tetrahydro-3-thia-cyclopropa[a]pentalen-4-yl)-[1,2,4]oxadiazole (90 mg) as an almost colourless solid; LC-MS: tR=1.30 min, [M+1]+=540.28; 1H NMR (CDCl3): δ 7.77 (s, 2H), 4.50 (d, J=12.9 Hz, 2H), 4.29-4.21 (m, 4H), 3.10 (dd, J=6.4, 18.8 Hz, 1H), 2.93 (d, J=18.8 Hz, 1H), 2.43 (s, 3H), 2.28 (s, 6H), 2.00-1.91 (m, 2H), 1.48 (s, 3H), 1.45 (s, 3H), 1.15 (s, 3H), 0.76 (s, 3H).

reactant | triphenylphosphine | 0.615 mmol, 161 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | DEAD | 0.615 mmol, 0.097 mL | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
reactant | (2,2-dimethyl-5-nitro-[1,3]dioxan-5-yl)-methanol | 0.615 mmol, 118 mg | CC1(OCC(CO1)([N+](=O)[O-])CO)C | C7H13NO5
reactant | 2,6-dimethyl-4-[5-((1aS,5aR)-1,1,2-trimethyl-1,1a,5,5a-tetrahydro-3-thia-cyclopropa[a]pentalen-4-yl)-[1,2,4]oxadiazol-3-yl]-phenol | 0.410 mmol, 150 mg | CC1=C(C(=CC(=C1)C1=NOC(=N1)C1=C2C[C@@H]3[C@H](C2=C(S1)C)C3(C)C)C)O | C21H22N2O2S
solvent | THF | 2.5 mL | C1CCOC1 | C4H8O
product | 3-[4-(2,2-dimethyl-5-nitro-[1,3]dioxan-5-ylmethoxy)-3,5-dimethyl-phenyl]-5-((1aS,5aR)-1,1,2-trimethyl-1,1a,5,5a-tetrahydro-3-thia-cyclopropa[a]pentalen-4-yl)-[1,2,4]oxadiazole | 90 mg | CC1(OCC(CO1)([N+](=O)[O-])COC1=C(C=C(C=C1C)C1=NOC(=N1)C1=C2C[C@@H]3[C@H](C2=C(S1)C)C3(C)C)C)C | C28H33N3O6S
